US07238716B2
A mixture of 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile (0.40 g), benzyl bromide (0.48 g), anhydrous potassium carbonate (0.14 g) and N,N-dimethylformamide (5 mL) was stirred at 90° C. for 3 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (0.27 g, 55%) of 2-[5-benzyloxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 130-131° C.

reactant | 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 0.40 g | OC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H22N2O4
reactant | benzyl bromide | 0.48 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[5-benzyloxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 0.27 g, 55% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H28N2O4
